US04272437
A solution of p-bromomethylphenylacetic acid (3.64 g, 15.9 mmol) in acetone (100 ml) was treated with a solution of sodium azide (1.04 g, 16.0 mmol) in H2O (15 ml). The mixture was stirred at room temperature overnight (ca. 20 h). After evaporation of the acetone, the residual solution was cooled in an ice-bath. The white gelatinous precipitate that formed was collected, washed with cold water and dried yielding 2.175 g (11.4 mmol, 71.5%) of p-azidomethylphenylacetic acid as a white solid: 1Hmr (DMSO-d6) δ: 3.59 (2H, s,--CH2CO2), 4.42 (2H, s,--CH2N3) and 7.32 ppm (4H, s, aromatic Hs); ir (nujol) νmax : 2500-3400 (b, --CO2H), 2070 (s, --N3) and 1690 cm-1 (s, C=O).

reactant | p-bromomethylphenylacetic acid | 15.9 mmol, 3.64 g | BrCC1=CC=C(C=C1)CC(=O)O | C9H9BrO2
reactant | sodium azide | 16.0 mmol, 1.04 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | H2O | 15 ml | O | H2O
product | p-azidomethylphenylacetic acid | 11.4 mmol, 2.175 g, 71.5% | N(=[N+]=[N-])CC1=CC=C(C=C1)CC(=O)O | C9H9N3O2
